datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCc1[nH]c2ccccc2[n+:21]1[H:20].Nc1c[n:10]cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O>>CCc1[nH]c2ccccc2[n:21]1.Nc1c[n+:10]([H:20])cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O 10=20;20,21=21",
"CCC(O)C[N:10](C)CC(C)O.COC(=O)C[C@@H]1[C@@H](C(=O)[O:21][H:20])[NH2+]C[C@H]1C(C)O>>CCC(O)C[N+:10](C)(CC(C)O)[H:20].COC(=O)C[C@@H]1[C@@H](C(=O)[O-:21])[NH2+]C[C@H]1C(C)O 10=20;20,21=21",
"Cc1ccccc1[N-:10]C(=S)c1ccccc1.Cn1ncc2c(NCc3ccccc3)nc[n+:21]([H:20])c21>>Cc1ccccc1[N:10](C(=S)c1ccccc1)[H:20].Cn1ncc2c(NCc3ccccc3)nc[n:21]c21 10=20;20,21=21",
"Cc1ccc([N+](=O)[O-])cc1C(c1ccccc1)=[N+:21](CCC[NH+](C)C)[H:20].Cc1cccc([NH2:10])c1>>Cc1ccc([N+](=O)[O-])cc1C(c1ccccc1)=[N:21]CCC[NH+](C)C.Cc1cccc([NH2+:10][H:20])c1 10=20;20,21=21",
"Cc1c(NCCC[NH+](C)C)c2c([N+](=O)[O-])cccc2[n+:21]([H:20])c1C.O=C([O-])C[N:10]1CCCCC1>>Cc1c(NCCC[NH+](C)C)c2c([N+](=O)[O-])cccc2[n:21]c1C.O=C([O-])C[N+:10]1([H:20])CCCCC1 10=20;20,21=21",
"CCC[NH:10]CCC.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCC[NH+:10](CCC)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CN1C(=O)N(C)c2c1cccc2[NH2+:21][H:20].NCC[NH:10]Cc1ccccc1>>CN1C(=O)N(C)c2c1cccc2[NH2:21].NCC[NH+:10](Cc1ccccc1)[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCCNC(=O)C(Cc1c[nH]cn1)NC(=O)c1cccc(CNCC[NH2:10])n1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCCNC(=O)C(Cc1c[nH]cn1)NC(=O)c1cccc(CNCC[NH2+:10][H:20])n1 10=20;20,21=21",
"CCCCNCCCCCC[NH:10]CCCC.O=C(CC(c1ccccc1)c1ccccc1Cl)[O:21][H:20]>>CCCCNCCCCCC[NH+:10](CCCC)[H:20].O=C(CC(c1ccccc1)c1ccccc1Cl)[O-:21] 10=20;20,21=21",
"C[NH:10]CCCN1c2ccccc2CCc2ccccc21.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C[NH+:10](CCCN1c2ccccc2CCc2ccccc21)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"COc1ccc(C=O)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:10]2Cc1ccccc1.FC(F)(F)c1cc(-c2ccccc2)n[n+:21]([H:20])c1NCC[NH+]1CCOCC1>>COc1ccc(C=O)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:10]2(Cc1ccccc1)[H:20].FC(F)(F)c1cc(-c2ccccc2)n[n:21]c1NCC[NH+]1CCOCC1 10=20;20,21=21",
"N#CC1=C(c2nc3ccccc3s2)C(=O)Oc2cc([O-:10])ccc21.OCc1ccc([O:21][H:20])cc1>>N#CC1=C(c2nc3ccccc3s2)C(=O)Oc2cc([O:10][H:20])ccc21.OCc1ccc([O-:21])cc1 10=20;20,21=21",
"CCOc1ccc2c(c1)c(N)cc(/C=C/c1ccccc1)[n+:21]2[H:20].COc1ccc(OC)c([NH2:10])c1>>CCOc1ccc2c(c1)c(N)cc(/C=C/c1ccccc1)[n:21]2.COc1ccc(OC)c([NH2+:10][H:20])c1 10=20;20,21=21",
"O=C1C=CC=CC=C1C(=O)[O-:10].[NH3+]CC(=O)NC(Cc1c[nH]c[n+:21]1[H:20])C(=O)[O-]>>O=C1C=CC=CC=C1C(=O)[O:10][H:20].[NH3+]CC(=O)NC(Cc1c[nH]c[n:21]1)C(=O)[O-] 10=20;20,21=21",
"Clc1cccc(Cl)c1[O:21][H:20].Fc1cccc([NH2:10])c1>>Clc1cccc(Cl)c1[O-:21].Fc1cccc([NH2+:10][H:20])c1 10=20;20,21=21",
"CN(C)C(O)[O:21][H:20].NC(=O)C=C(O)c1ccc[n:10]c1>>CN(C)C(O)[O-:21].NC(=O)C=C(O)c1ccc[n+:10]([H:20])c1 10=20;20,21=21",
"CN[C@H]1C(C)[C@@H]1[NH:10]C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CN[C@H]1C(C)[C@@H]1[NH+:10](C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C1C[NH+:21]([H:20])CC[NH2+]1.c1cc(-c2ccoc2)c[n:10]c1>>C1C[NH:21]CC[NH2+]1.c1cc(-c2ccoc2)c[n+:10]([H:20])c1 10=20;20,21=21",
"COc1cccnc1C(O)[O-:10].C[Si](C)(C)CC(=O)[O:21][H:20]>>COc1cccnc1C(O)[O:10][H:20].C[Si](C)(C)CC(=O)[O-:21] 10=20;20,21=21",
"COc1ccccc1/C=C\C(=O)[O:21][H:20].Cc1ncsc1C(=O)[O-:10]>>COc1ccccc1/C=C\C(=O)[O-:21].Cc1ncsc1C(=O)[O:10][H:20] 10=20;20,21=21",
"[H:20][NH+:21]1CCCCC1.CS(=O)(=O)C1=CC(=C(C=C1)[CH-:10]C#N)[N+](=O)[O-]>>[H:20][CH:10](C#N)C1=C(C=C(C=C1)S(=O)(=O)C)[N+](=O)[O-].C1CC[NH:21]CC1 10=20;20,21=21",
"CCC(C)(O)c1cnc(CC(C)C)c([O-:10])[n+]1[O-].O=C1c2ccccc2C(=O)[N:21]1[H:20]>>CCC(C)(O)c1cnc(CC(C)C)c([O:10][H:20])[n+]1[O-].O=C1c2ccccc2C(=O)[N-:21]1 10=20;20,21=21",
"CC(=O)c1ccc([O-])c(C[N:10](C)C)c1.Oc1ccc(C2SCC[NH+:21]2[H:20])cc1>>CC(=O)c1ccc([O-])c(C[N+:10](C)(C)[H:20])c1.Oc1ccc(C2SCC[NH:21]2)cc1 10=20;20,21=21",
"Nc1[nH][n:10]c(N)c1/N=N/c1ccccc1.O=C(C[C@]1(O)C[C@@H]2CC[C@H]1C2)[O:21][H:20]>>Nc1[nH][n+:10]([H:20])c(N)c1/N=N/c1ccccc1.O=C(C[C@]1(O)C[C@@H]2CC[C@H]1C2)[O-:21] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Oc1ccc(C[NH2:10])cc1O>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Oc1ccc(C[NH2+:10][H:20])cc1O 10=20;20,21=21",
"CC(C(=O)[O-])[NH2:10].CC(C)[NH+]1CCC(N[NH2+:21][H:20])CC1>>CC(C(=O)[O-])[NH2+:10][H:20].CC(C)[NH+]1CCC(N[NH2:21])CC1 10=20;20,21=21",
"C[N:10](C)CCC/N=C(\c1ccccc1)c1ccccc1-c1ccccc1.[O-]C(=C1SCc2ccccc21)[O:21][H:20]>>C[N+:10](C)(CCC/N=C(\c1ccccc1)c1ccccc1-c1ccccc1)[H:20].[O-]C(=C1SCc2ccccc21)[O-:21] 10=20;20,21=21",
"NC(=[NH2+])Nc1nccc(c2csc(N)[n:10]2)n1.Oc1cccc2c1-c1c-2cccc1[O:21][H:20]>>NC(=[NH2+])Nc1nccc(c2csc(N)[n+:10]2[H:20])n1.Oc1cccc2c1-c1c-2cccc1[O-:21] 10=20;20,21=21",
"CC(=O)Nc1cccc2c1cc1ccccc1[n+:21]2[H:20].O=C1C2CCC2C(=O)[N-:10]1>>CC(=O)Nc1cccc2c1cc1ccccc1[n:21]2.O=C1C2CCC2C(=O)[N:10]1[H:20] 10=20;20,21=21",
"CO/C([O-])=N/c1ncnc2nc[n-:10]c12.Oc1ccc(/N=N/c2cc[n+:21]([H:20])cc2)cc1>>CO/C([O-])=N/c1ncnc2nc[n:10]([H:20])c12.Oc1ccc(/N=N/c2cc[n:21]cc2)cc1 10=20;20,21=21",
